US06743794B2
6-Methoxynicotinic Acid
To a solution of methyl 6-methoxynicotinate (Avacado), 0.1 g (0.6 mmol) in 5 mL of tetrahydrofuran was added a solution of 1.2 mL of 5 N sodium hydroxide in 5 mL of water. The mixture was stirred for four hours at ambient temperature, acidified to pH=3 with 5 N HCl and concentrated to dryness to yield the crude desired compound. MS (ion spray) 154.0 (M+1). The crude product was carried on without further purification.

reactant | methyl 6-methoxynicotinate | COC1=NC=C(C(=O)OC)C=C1 | C8H9NO3
reactant | sodium hydroxide | 5 N, 1.2 mL | [OH-].[Na+]
reactant | HCl | 5 N | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 6-Methoxynicotinic Acid | COC1=NC=C(C(=O)O)C=C1 | C7H7NO3
